US09315467B2
Part A. A flask containing absolute ethanol (10 mL) is cooled to 0° C., and sodium hydride (42 mg, 60% w/w with mineral oil, 1.05 mmol) is added. After stirring for 0.5 h., the solution is treated with 4-aminobenzamidine dihydrochloride (104 mg, 0.50 mmol) and the mixture is allowed to stir for 5 min. Then, 3-(3-dimethylamino-acryloyl)-benzonitrile (100 mg, 0.50 mmol) is added, and the resulting mixture is heated to reflux for 3 h. then cooled to ambient temperature and stirred for 60 h. The mixture is evaporated, and the resulting mixture is triturated with diethyl ether and filtered. The filtrate is evaporated to afford a yellow oil, which is separated by column chromatography (1:1 ethyl acetate-hexane) to afford the product, 3-[2-(4-amino-phenyl)-pyrimidin-4-yl]-benzonitrile (76 mg, 56%). 1H NMR (300 MHz, CDCl3): δ 8.75 (1H, d, J=6 Hz), 8.49 (1H, t, J=2 Hz), 8.37-8.31 (3H, m), 7.75 (1H, dt, J=8, 2 Hz), 7.59 (1H, t, J=8 Hz), 7.40 (1H, d, J=6 Hz), 6.76 (2H, d, J=9 Hz), 4.03 (2H, br s). 13C NMR (CDCl3): δ 164.6, 160.8, 158.0, 149.2, 138.2, 133.6, 131.0, 130.7, 129.8 (2C), 129.5, 127.2, 118.5, 114.5 (2C), 113.0, 112.9. MS (ES+): m/e 274 (20), 273 (100).

reactant | sodium hydride | 1.05 mmol, 42 mg | [H-].[Na+]
reactant | 4-aminobenzamidine dihydrochloride | 0.50 mmol, 104 mg | Cl.Cl.NC1=CC=C(C(=N)N)C=C1
reactant | 3-(3-dimethylamino-acryloyl)-benzonitrile | 0.50 mmol, 100 mg | CN(C=CC(=O)C=1C=C(C#N)C=CC1)C | C12H12N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[2-(4-amino-phenyl)-pyrimidin-4-yl]-benzonitrile | 76 mg, 56% | NC1=CC=C(C=C1)C1=NC=CC(=N1)C=1C=C(C#N)C=CC1 | C17H12N4
